US07288550B2
A round bottom flask was charged with a magnetic stir bar, a 2:1 mixture of N′-[2-butyl-1H-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-yl]-N,N-dimethylimidoformamide and 2-butyl-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.3 g), benzenesulfinic acid sodium salt (1.67 g, 10.11 mmol), and anhydrous dimethyl formamide (15 mL) under a nitrogen atmosphere. The resulting solution was heated to 100° C. to give a homogeneous solution that was maintained at 100° C. for 90 hours at which time the starting materials were completely consumed. The solution was cooled and then partitioned between chloroform and water. The layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a dark yellow gum. The material was dissolved in methanol (20 mL) and a 4 M solution of hydrochloric acid in dioxane (3.02 mL, 12.1 mmol). The light orange solution was stirred at ambient temperature for 12 hours at which time the reaction was judged to be complete. The volatiles were removed under reduced pressure to give a light yellow gum. The material was partitioned between chloroform and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with chloroform (1×). The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a light yellow solid. The material was purified by chromatography over silica gel (95/5 dichloromethane/methanol) to give an off-white solid. The solid (0.63 g) was dissolved in ethyl acetate (50 mL) and brought to reflux. Activated charcoal (0.6 g) was added and the resulting-mixture was heated at reflux for 5 minutes. The charcoal was removed by filtration through fluted paper to provide a colorless solution. The solution was concentrated under reduced pressure to give a solid that was recrystallized from ethyl acetate and hexanes to provide 2-butyl-1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.37 g, 0.85 mmol) as a white fluffy solid, m.p. 179–180° C. Analysis. Calculated for C24H28N4O2S: % C 66.03; % H, 6.46; % N, 12.83. Found % C 65.88; % H, 6.49; % N, 12.76.

reactant | 2-butyl-1-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.3 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCCl | C18H23ClN4
reactant | benzenesulfinic acid sodium salt | 10.11 mmol, 1.67 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 12.1 mmol, 3.02 mL | O1CCOCC1 | C4H8O2
reactant | charcoal | 0.6 g | C | CH4
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-butyl-1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.85 mmol, 0.37 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCS(=O)(=O)C1=CC=CC=C1 | C24H28N4O2S
